US08012974B2
A solution of 4-methyl-5-oxo-azepane-1-carboxylic acid tert-butyl ester (700 mg, 3.083 mmol) was dissolved in 10% TFA in DCM (30 mL) and stirred at RT for 6 hours before being evaporated to give 0.74 g of 5-methyl-azepan-4-one hydrochloride.

reactant | 4-methyl-5-oxo-azepane-1-carboxylic acid tert-butyl ester | 3.083 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CCC(C(CC1)=O)C | C12H21NO3
reactant | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-methyl-azepan-4-one hydrochloride | 0.74 g | Cl.CC1C(CCNCC1)=O | InChI=1S/C7H13NO.ClH/c1-6-2-4-8-5-3-7(6)9;/h6,8H,2-5H2,1H3;1H
